*  LP2951 Model
*****************************************************************************
*  (C) Copyright 2012 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warrenties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
** Released by: WEBENCH Design Center, Texas Instruments Inc.
* Part: LP2951
* Date: 05/30/2012
* EVM Order Number: 
* EVM Users Guide: 
* Datasheet: SLVS582H - APRIL 2006 - REVISED MARCH 2012
*
* Model Version: Final 1.00
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web.
*
*****************************************************************************
* source LP2951
.SUBCKT LP2951 OUTPUT SENSE SHUTDOWN GND ERROR VTAP FEEDBACK INPUT
C_LP2951_C3         LP2951_PGY 0  100p  
E_LP2951_ABM2         LP2951_N258528 0 VALUE { IF (V(FEEDBACK) +
+  0.015*1.235*(1-V(LP2951_PGY)) > 0.95*1.235, 0, 1)    }
R_LP2951_U1_R_ref         LP2951_U1_N256227 LP2951_U1_N05348  1k  
E_LP2951_U1_ABM4         LP2951_U1_N256793 0 VALUE { V(LP2951_U1_N05348) * V(OUTPUT) / (V(FEEDBACK) + 1e-6)  }
R_LP2951_U1_R_ref2         LP2951_U1_N257274 LP2951_N222524  1k  
R_LP2951_U1_R1         GND LP2951_U1_N05348  1G  
R_LP2951_U1_R_ref1         LP2951_U1_N256793 LP2951_U1_N256746  1k  
C_LP2951_U1_C_ref2         LP2951_N222524 0  1p  
C_LP2951_U1_C_ref1         LP2951_U1_N256746 0  1p  
V_LP2951_U1_Vshutdown         LP2951_U1_N280613 0 2
V_LP2951_U1_Vuvlo         LP2951_U1_N280503 0 1.8
X_LP2951_U1_U2         LP2951_U1_N279637  SHUTDOWN  LP2951_U1_N280613  COMP_HYS_BASIC  PARAMS:  VHYS=0.05 TD=0.00 TT=2E-9
C_LP2951_U1_C_ref         LP2951_U1_N05348 0  100p  
R_LP2951_U1_R2         GND LP2951_U1_N256746  1G  
E_LP2951_U1_ABM6         LP2951_U1_N256227 0 VALUE { IF (V(LP2951_U1_N277312) >
+  0.51 & V(LP2951_U1_N279637) < 0.51, 1.235, 0)    }
X_LP2951_U1_U3         LP2951_U1_N277312 INPUT LP2951_U1_N280503 COMP_HYS_BASIC
+  PARAMS:  VHYS=0.05 TD=0.00 TT=2E-9
E_LP2951_U1_ABM5         LP2951_U1_N257274 0 VALUE { MIN(V(LP2951_U1_N256746), 
+  MAX(V(INPUT) - 0.380, 0))   }
X_LP2951_S1    LP2951_PGY 0 ERROR GND LP2951_LP2951_S1 
R_LP2951_R_10R         VTAP GND  1235k  
R_LP2951_R5         LP2951_VZZ LP2951_VYY  20m  
E_LP2951_ABM1         LP2951_VYY 0 VALUE { MIN(V(LP2951_VXX), (V(LP2951_VZZ)+0.0032))    }
R_LP2951_R_BIG8         ERROR 0  1G  
R_LP2951_R1         LP2951_VXX INPUT  10MEG  
X_LP2951_F1    LP2951_VZZ OUTPUT INPUT LP2951_VYY LP2951_LP2951_F1 
R_LP2951_R_BIG7         SENSE 0  1G  
R_LP2951_R2         LP2951_N222524 LP2951_VXX  1.8k  
R_LP2951_R_32R         SENSE VTAP  2065k  
C_LP2951_C1         LP2951_VXX INPUT  159p  
C_LP2951_C2         LP2951_VXX LP2951_N222524  44.2n  
R_LP2951_R3         LP2951_N258528 LP2951_PGY  1k

*$
.subckt LP2951_LP2951_S1 1 2 3 4  
S_LP2951_S1         3 4 1 2 _LP2951_S1
RS_LP2951_S1         1 2 1G
.MODEL         _LP2951_S1 VSWITCH Roff=10e6 Ron=100 Voff=0.0V Von=0.9V
.ends LP2951_LP2951_S1
*$
.subckt LP2951_LP2951_F1 1 2 3 4  
F_LP2951_F1         3 4 VF_LP2951_F1 1
VF_LP2951_F1         1 2 0V
.ends LP2951_LP2951_F1
*$
.SUBCKT comp_hys_basic out inp inn   PARAMS:  vhys = 0.05  td   = 0.00 tt   = 2e-9
E1 n1   0 VALUE {IF((V(inp) + V(out)*vhys) > V(inn), 1, 0)}
R1 n1 out 10
C1 out  0 { (td + 0.5*tt) / 6.93 }
.ENDS comp_hys_basic
.ENDS LP2951